US06303783B1
Preparation of 3-(4-chloro-2-fluoro-5-nitrophenyl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 4-chloro-2-fluoro-5-nitroaniline (5.0 g, 26.3 mmol) and 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one (5.73 g, 27.6 mmnol) in acetic acid is refluxed for 4 hours and poured onto ice. The resultant aqueous mixture is filtered to obtain a solid. The solid is washed with water and air-dried to give the title product as a beige solid (7.5 g, 81% yield, mp 230-232° C.) which is identified by 1H, 13C and 19F NMR spectral analyses.

reactant | 4-chloro-2-fluoro-5-nitroaniline | 26.3 mmol, 5.0 g | ClC1=CC(=C(N)C=C1[N+](=O)[O-])F | C6H4ClFN2O2
reactant | 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one | 5.73 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-chloro-2-fluoro-5-nitrophenyl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 7.5 g, 81% yield | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C(NC(=CC1=O)C(F)(F)F)=O)F | C11H4ClF4N3O4
